US04696890
4,4'-Ketobis(naphthalenedicarboxcylic acid) can be obtained by reaction of 2 moles of dimethylnaphthalene with COCl2, in the presence of AlCl3, and subsequent oxidation of the resultant 4,4'-ketobis(dimethylnaphthalene) with HNO3 to give the tetracarboxylic acid. This tetracarboxylic acid can be partially hydrogenated to the 4,4'-keto(tetrahydronaphthalenedicarboxylic acid). The hydrogenation can also be carried out before the oxidation with 4,4'-ketobis(dimethylnaphthalene).

reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4,4'-ketobis(dimethylnaphthalene) | O(C1=CC(=C(C2=CC=CC=C12)C)C)C1=CC(=C(C2=CC=CC=C12)C)C | C24H22O
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
product | dimethylnaphthalene | 2 moles | CC1=C(C2=CC=CC=C2C=C1)C | C12H12
